US04461774
To an ice-cooled solution of (-)-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol (5.4 g) in pyridine (50 ml) was added dropwise methanesulfonyl chloride (2.15 g). The reaction mixture was stirred at 0°-10° C. for 2 hours. An ice-cooled solution of 85.5% potassium hydroxide (3.7 g) in methanol (60 ml) was added dropwise thereto, and then the mixture was stirred at 0°-10° C. for 1 hour. The solvent was removed in vacuo, and the residue was extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and evaporated to give a red oil. The oily residue was purified by chromatography on silica gel (60 g) with chloroform as a solvent and recrystallized from ether-hexane to give (-)-2-(2,4-dichlorophenyl)-2-(imidazol-1-yl)methyloxirane (4.3 g) as colorless needles. Yield, 84.6%. M.P., 107°-108.5° C. [α]D21.5, -8.4° (C=1.0, MeOH).

reactant | (-)-2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol | 5.4 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)(CO)O | C12H12Cl2N2O2
reactant | methanesulfonyl chloride | 2.15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium hydroxide | 3.7 g | [OH-].[K+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 60 ml | CO | CH4O
product | (-)-2-(2,4-dichlorophenyl)-2-(imidazol-1-yl)methyloxirane | 4.3 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1C=NC=C1 | C12H10Cl2N2O
